US07456296B2
The perindopril free base is dissolved in a solvent chosen from lower aliphatic alcohol, acetonitrile, ethyl acetate or dioxane or mixtures thereof and the solution reacted with tert-butylamine to form perindopril erbumine, which is crystallized by heating the reaction mixture, filtering hot, cooling and finally filtering of the crystallized perindopril erbumine.

reactant | perindopril | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O | C19H32N2O5
reactant | acetonitrile | C(C)#N | C2H3N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | perindopril erbumine | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)N1[C@H]2CCCC[C@H]2C[C@H]1C(=O)O.CC(C)(C)N | InChI=1S/C19H32N2O5.C4H11N/c1-4-8-14(19(25)26-5-2)20-12(3)17(22)21-15-10-7-6-9-13(15)11-16(21)18(23)24;1-4(2,3)5/h12-16,20H,4-11H2,1-3H3,(H,23,24);5H2,1-3H3/t12-,13-,14-,15-,16-;/m0./s1
